US09062028B2
Step B. tert-Butyl 3-((3-(1-(4-(o-tolyloxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)propanoate
The title compound was prepared using a procedure analogous to ethyl 2-(4-(1-(4-(2,4,5-trichlorophenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate except that ethyl 2-(4-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate was replaced with tert-butyl 3-((3-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)propanoate and 2,4,5-trichlorophenol was replaced with o-cresol. LCMS, [M+H]+=587.3.

reactant | ethyl 2-(4-(1-(4-(2,4,5-trichlorophenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate | ClC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC(=O)OCC)C=C(C(=C1)Cl)Cl | C26H26Cl3N3O4
reactant | ethyl 2-(4-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetate | OCCCC(=O)N1CCCC2=C(C=CC=C12)C=1C=NN(C1)CC(=O)OCC | C20H25N3O4
reactant | tert-butyl 3-((3-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)propanoate | OCCCC(=O)N1CCCC2=C(C=CC=C12)C=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1 | C28H36N2O6
reactant | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
product | tert-Butyl 3-((3-(1-(4-(o-tolyloxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)propanoate | C1(=C(C=CC=C1)OCCCC(=O)N1CCCC2=C(C=CC=C12)C=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1)C | C35H42N2O6
